US06855711B1
Synthesis of 5-(imidazol-1-ylmethyl)-8-hydroxyquinoline (17)
A mixture of 5-chloromethyl-8-hydroxyquinoline hydrochloride (3.45 g; 15 mmol), imidazole (1.02 g; 15 mmol) and diisopropylethylamine (5.25 ml; 30 mmol) in CHCl3 (60 ml) was stirred for 24 h at room temperature and then for 3 h at 60° C. After cooling, the mixture was evaporated, washed with ethyl acetate (50 ml) and then hexane (50 ml). The residue was crystallized from a mixture of toluene and ethanol (abs.) to give 0.83 g (29%) of title product. M.p. 182° C.

reactant | 5-chloromethyl-8-hydroxyquinoline hydrochloride | 15 mmol, 3.45 g | Cl.ClCC1=C2C=CC=NC2=C(C=C1)O
reactant | imidazole | 15 mmol, 1.02 g | N1C=NC=C1 | C3H4N2
reactant | diisopropylethylamine | 30 mmol, 5.25 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CHCl3 | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(imidazol-1-ylmethyl)-8-hydroxyquinoline | 0.83 g, 29% | N1(C=NC=C1)CC1=C2C=CC=NC2=C(C=C1)O | C13H11N3O
